US07018988B2
(2S,4EZ)-4-(ethoxyimino)-N2-(9-ethyl-9H-carbazol-3-yl)-N1-(3-methoxyphenyl)-1,2-pyrrolidinedicarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(ethoxyimino)-2-pyrrolidinecarboxylic acid, 1-isocyanato-3-methoxybenzene, and 9-ethyl-9H-carbazol-3-amine the title compound was obtained in 60% purity by LC/MS. MS(ESI+): m/z=514.4.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(ethoxyimino)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOCC)C(=O)O | C12H20N2O5
reactant | 1-isocyanato-3-methoxybenzene | N(=C=O)C1=CC(=CC=C1)OC | C8H7NO2
reactant | 9-ethyl-9H-carbazol-3-amine | C(C)N1C2=CC=CC=C2C=2C=C(C=CC12)N | C14H14N2
product | (2S,4EZ)-4-(ethoxyimino)-N2-(9-ethyl-9H-carbazol-3-yl)-N1-(3-methoxyphenyl)-1,2-pyrrolidinedicarboxamide | C(C)ON=C1C[C@H](N(C1)C(=O)NC1=CC(=CC=C1)OC)C(=O)NC=1C=CC=2N(C3=CC=CC=C3C2C1)CC | C29H31N5O4
